US08580762B2
N-(2-amino-4-bromophenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide
N,N,N′,N′-Tetramethyl-0-(7-azabenzotriazol-1-yl)uronium Hexafluorophosphate (1.20 g, 3.16 mmol) was added to a solution 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanoic acid (1.25 g, 2.10 mmol) and N,N-Diisopropylethylamine (1.21 ml, 6.95 mmol) and 4-bromobenzene-1,2-diamine (0.472 g, 2.53 mmol) in N,N-Dimethylformamide (13.0 ml). The reaction was stirred overnight at RT, partially concentrated to ca. 2 mls and then NaHCO3 (saturated) was added. The mixture was extracted with EtOAc (3×) and the combined organics were dried with MgSO4, filtered and concentrated. The residue was purified by flash chromatography (DCM/7N NH3 in MeOH 95:5) to give the desired compound (1.2 g) as a solid.

reactant | 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanoic acid | 2.10 mmol, 1.25 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(C2CC(C2)CCC(=O)O)C)C=CC(=C1)OC | C32H43N5O6
reactant | N,N-Diisopropylethylamine | 6.95 mmol, 1.21 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromobenzene-1,2-diamine | 2.53 mmol, 0.472 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
solvent | N,N-Dimethylformamide | 13.0 ml | CN(C=O)C | C3H7NO
product | N-(2-amino-4-bromophenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide | 1.2 g | NC1=C(C=CC(=C1)Br)NC(CCC1CC(C1)N(C)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC)=O | C38H48BrN7O5
